US07645789B2
To a suspension of NaH (60% in mineral oil, 8.4 g, 0.21 mol) in THF (200 mL) was added dropwise a solution of 2-tert-butyl-4-methylphenol (33 g, 0.20 mol) in THF (100 mL) at 0° C. The mixture was stirred at 0° C. for 15 min and then phosphorochloridic acid diethyl ester (37 g, 0.21 mol) was added dropwise at 0° C. After addition, the mixture was stirred at ambient temperature for 30 min. The reaction was quenched with sat. NH4Cl (300 mL) and then extracted with Et2O (350 mL×2). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, and then evaporated under vacuum to give 2-tert-butyl-4-methylphenyl diethyl phosphate (contaminated with mineral oil) as a colorless oil (60 g, 100%), which was used directly in the next step.

reactant | NaH | 0.21 mol, 8.4 g | [H-].[Na+]
reactant | 2-tert-butyl-4-methylphenol | 0.20 mol, 33 g | C(C)(C)(C)C1=C(C=CC(=C1)C)O | C11H16O
reactant | phosphorochloridic acid diethyl ester | 0.21 mol, 37 g | C(C)OP(OCC)(=O)Cl | C4H10ClO3P
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-tert-butyl-4-methylphenyl diethyl phosphate | 60 g, 100% | P(=O)(OC1=C(C=C(C=C1)C)C(C)(C)C)(OCC)OCC | C15H25O4P
